US07576095B2
Step 6 2-bromo-1-[4-(1-ethoxyethoxy)phenyl]propan-1-one
Ethoxyethene (3.148 g, 43.655 mmol) and TFA (0.249 g, 2.183 mmol) was added to a suspension of 2-bromo-1-(4-hydroxyphenyl)propan-1-one (5.000 g, 21.827 mmol) in toluene (50 ml) at rt. The reaction mixture was stirred at 30° C. for 2 h and 30 min. The solvent was evaporated to yield the product as an oil (6.83 g, 100%).

reactant | Ethoxyethene | 43.655 mmol, 3.148 g | C(C)OC=C | C4H8O
reactant | 2-bromo-1-(4-hydroxyphenyl)propan-1-one | 21.827 mmol, 5.000 g | BrC(C(=O)C1=CC=C(C=C1)O)C | C9H9BrO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | TFA | 2.183 mmol, 0.249 g | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-bromo-1-[4-(1-ethoxyethoxy)phenyl]propan-1-one | 6.83 g, 100% | BrC(C(=O)C1=CC=C(C=C1)OC(C)OCC)C | C13H17BrO3
